US08124606B2
Compound 100: 6-(4-((6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile
3-(hydroxymethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one (70.0 mg, 0.298 mmol) was suspended in propionitrile (0.74 mL) and (cyanomethyl)trimethylphosphonium iodide (87.0 mg, 0.357 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (115 ul, 0.893 mmol). To the stirred mixture was then added 6-(piperazin-1-yl)nicotinonitrile (56.0 mg, 0.298 mmol). The reaction was heated to 90° C. with stirring for 16 h. The reaction was cooled to room temperature and left to sit 48 h. The precipitate was filtered off, washed with methanol (5 mL) and dried in vacuum to afford the title compound (72.5 mg, 60.1%) as a white solid. 1H NMR (CHLOROFORM-d) δ: 8.41 (d, J=1.8 Hz, 1H), 8.20 (br. s., 1H), 7.80 (d, J=2.0 Hz, 1H), 7.61 (dd, J=9.0, 2.4 Hz, 1H), 6.99 (br. s., 1H), 6.59 (d, J=9.1 Hz, 1H), 4.42 (dd, J=11.5, 3.7 Hz, 1H), 4.26 (dd, J=13.3, 1.6 Hz, 1H), 3.95-4.12 (m, 2H), 3.58-3.80 (m, 6H), 3.45 (s, 2H), 2.92-3.08 (m, 1H), 2.53 (br. s., 4H). [M+H] calc'd for C21H23N7O2, 406. found, 406.

reactant | 3-(hydroxymethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one | 0.298 mmol, 70.0 mg | OCC1=CC=2NC(C3N(C2N=C1)CCOC3)=O | C11H13N3O3
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.357 mmol, 87.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.893 mmol, 115 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 6-(piperazin-1-yl)nicotinonitrile | 0.298 mmol, 56.0 mg | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
solvent | propionitrile | 0.74 mL | C(CC)#N | C3H5N
product | 6-(4-((6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinonitrile | 72.5 mg, 60.1% | O=C1C2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C#N)C=C3)CCOC2 | C21H23N7O2
